US07399759B2
3-(4-Pyridyl)acrylonitrile
Sodium hydride (ca. 60%, 1.0 g, 28.1 mmol) was dissolved in tetrahydrofuran (10 ml), and a solution of diethyl cyanomethylphosphonate (4.7 g, 26.8 mmol) in tetrahydrofuran (5 ml) was added under ice cooling condition. The mixture was stirred for 1 hr. Successively, a solution of 2-pyridinecarbaldehyde (2.7 g, 25.0 mmol) in tetrahydrofuran (5 ml) was added to the mixture, and the mixture was stirred at 0° C. to room temperature for 3 hrs. The reaction mixture was combined with water under ice cooling condition, concentrated under reduced pressure to the half amount and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated, and the residue was subjected to a silica gel (100 g) column chromatography. The fractions eluted with hexane-ethyl acetate (2:1, v/v) were collected and concentrated to give the titled compound (a mixture of E-form and Z-form, 2.5 g, 77%).

reactant | Sodium hydride | 28.1 mmol, 1.0 g | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 26.8 mmol, 4.7 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 2-pyridinecarbaldehyde | 25.0 mmol, 2.7 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | water | O | H2O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-(4-Pyridyl)acrylonitrile | N1=CC=C(C=C1)C=CC#N | C8H6N2
